US07615569B2
To a solution of 1-bromo-3-(3,4-dichloro-phenyl)-propan-2-one (4.1 mmol) in DMF (20 mL) was added sodium acetate (21 mmol) and the mixture was stirred for 2 hr at room temperature before concentrated ammonium hydroxide (5 mL) and ammonium chloride (1 g) were added. After the reaction mixture was stirred for 10 min, 4-(thiazol-2-ylsulfamoyl)-benzamidine (4.1 mmol) was added and the mixture was stirred at 60° C. overnight. After cooled to room temperature, the mixture was diluted with AcOEt (200 mL) and the resulting organic solution was washed with brine, dried over MgSO4, and concentrated in vacuo. The crude product was purified by column chromatography to give 4-[4-(3,4-dichloro-benzyl)-1H-imidazol-2-yl]-N-thiazol-2-yl-benzenesulfonamide (3.1 mmol), which was converted to its sodium salt by reacting with NaOH solution (0.999 N).

reactant | 1-bromo-3-(3,4-dichloro-phenyl)-propan-2-one | 4.1 mmol | BrCC(CC1=CC(=C(C=C1)Cl)Cl)=O | C9H7BrCl2O
reactant | sodium acetate | 21 mmol | C(C)(=O)[O-].[Na+]
reactant | ammonium hydroxide | 5 mL | [OH-].[NH4+]
reactant | ammonium chloride | 1 g | [Cl-].[NH4+]
reactant | 4-(thiazol-2-ylsulfamoyl)-benzamidine | 4.1 mmol | S1C(=NC=C1)NS(=O)(=O)C1=CC=C(C(=N)N)C=C1 | C10H10N4O2S2
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
solvent | AcOEt | 200 mL | CCOC(=O)C | C4H8O2
product | 4-[4-(3,4-dichloro-benzyl)-1H-imidazol-2-yl]-N-thiazol-2-yl-benzenesulfonamide | 3.1 mmol | ClC=1C=C(CC=2N=C(NC2)C2=CC=C(C=C2)S(=O)(=O)NC=2SC=CN2)C=CC1Cl | C19H14Cl2N4O2S2
